US07632831B2
6-(Cyclopropylmethoxy)-3-(1,4-diazabicyclo[3.2.2]non-4-ylcarbonyl)-1,2-benzisothiazole hydroformate
Diisopropyl azodicarboxylate (0.396 mmol) was added dropwise to a solution of 3-(1,4-diazabicyclo[3.2.2]non-4-ylcarbonyl)-1,2-benzisothiazol-6-ol (0.359 mmol), cyclopropyl carbinol (0.432 mmol), and triphenylphosphine (0.541 mmol) in tetrahydrofuran (2.2 mL). The reaction mixture was maintained at rt for 16 h, and then the reaction mixture was concentrated. The residue was purified by chromatography using a gradient of 50/50 to 0/100 ethyl acetate/[(70/30/1) ethylacetate/methanol/ammonium hydroxide)]. The compound was further purified by preparative HPLC to provide the product in 39% yield. 1H NMR (CD3OD) δ 8.06 and 8.05 (two d, J=9.0 ea, 1H), 7.56 (d, J=1.8, 1H), 7.14 and 7.13 (two dd, J=8.7, 2.2 ea, 1H), 5.00 (m, 0.79H), 4.50 (m, 0.34H), 4.25 (t, J=5.6, 0.68H), 4.09 (t, J=5.6, 1.34H), 3.95 (d, J=6.9, 2H), 3.63 (t, J=5.7, 0.70H), 3.62-3.36 (m, 5H), 2.45-2.37 (m, 2H), 2.26-2.02 (two m, 2H), 1.37-1.27 (m, 1H), 0.69-0.62 (m, 2H), 0.42-0.37 (m, 2H); LC/MS (EI) tR3.91 min, m/z 358 (M++1).

reactant | Diisopropyl azodicarboxylate | 0.396 mmol | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 3-(1,4-diazabicyclo[3.2.2]non-4-ylcarbonyl)-1,2-benzisothiazol-6-ol | 0.359 mmol | N12CCN(C(CC1)CC2)C(=O)C2=NSC1=C2C=CC(=C1)O | C15H17N3O2S
reactant | cyclopropyl carbinol | 0.432 mmol | C1(CC1)CO | C4H8O
reactant | triphenylphosphine | 0.541 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 2.2 mL | O1CCCC1 | C4H8O
product | 6-(Cyclopropylmethoxy)-3-(1,4-diazabicyclo[3.2.2]non-4-ylcarbonyl)-1,2-benzisothiazole | 39% yield | C1(CC1)COC1=CC2=C(C(=NS2)C(=O)N2CCN3CCC2CC3)C=C1 | C19H23N3O2S
